US04769501
108 g of o-cresol, 215 g of 38 wt% formalin, 50 g of sodium hydroxide, and 200 g of water were reacted for 96 hours at 25° C., and the reaction mixture was then neutralized with acetic acid, to obtain 126 g of 2,6-bis(hydroxymethyl)-4-methylphenol. (Yield: 75 mol%) The obtained 2,6-bis(hydroxymethyl)-4-methylphenol was reacted in 250 ml of methanol in the presence of 0.375 wt% of platinum-alumina catalyst and hydrogen for 4 hours at 180° C. at 179 kg/cm2 -G, and 15 g of 2,4,6-trimethylphenol was obtained. (Yield: 45 mol%) The yield on the basis of the raw material was 34 mol%.

reactant | 2,6-bis(hydroxymethyl)-4-methylphenol | OCC1=C(C(=CC(=C1)C)CO)O | C9H12O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 250 ml | CO | CH4O
product | 2,4,6-trimethylphenol | 15 g | CC1=C(C(=CC(=C1)C)C)O | C9H12O
